US09079866B2
A solution of 2-bromo-1-(4-bromo-2-fluorophenyl)ethanone (53 mg, 0.18 mmol) and urea (10.6 mg, 0.18 mmol) in CH3CN (0.7 mL) was heated at 80° Celsius for 18 hours. The mixture was cooled to rt and made basic with NaOH (2 N). The resulting solution was extracted with EtOAc and the extract was dried (Na2SO4), filtered, and concentrated to dryness. The residue was purified using FCC to give 4-(4-bromo-2-fluorophenyl)oxazol-2-amine (37 mg, 82%). MS (ESI): mass calcd. for C9H6BrFN2O, 255.96; m/z found, 257.1 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 7.78 (m, 1H), 7.58 (d, J=4.3, 1H), 7.36-7.32 (m, 1H), 7.28 (dd, J=10.5, 1.9, 1H), 4.60 (s, 2H).

reactant | 2-bromo-1-(4-bromo-2-fluorophenyl)ethanone | 0.18 mmol, 53 mg | BrCC(=O)C1=C(C=C(C=C1)Br)F | C8H5Br2FO
reactant | urea | 0.18 mmol, 10.6 mg | NC(=O)N | CH4N2O
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | CH3CN | 0.7 mL | CC#N | C2H3N
product | 4-(4-bromo-2-fluorophenyl)oxazol-2-amine | 37 mg, 82% | BrC1=CC(=C(C=C1)C=1N=C(OC1)N)F | C9H6BrFN2O
